US09102671B2
A 2 L round bottom flask was charged with ethyl 5-aminopyrazolo[1,5-a]pyridine-3-carboxylate (I-40) (28.8 g, 140 mmol) and CH3CN (450 mL). The suspension was cooled to 10° C. and BF3.Et2O (26.3 mL, 29.7 g, 209 mmol) was added in one portion. The resulting light slurry was cooled to −15° C. and isopentyl nitrite (28 mL, 24.5 g, 209 mmol) was added at −15 to −10° C. over 5 minutes. The mixture was then warmed to 0° C. and stirred at 0-5° C. over 2 hours and a dark suspension was obtained. Iodine (2.7 g, 11 mmol) and KI (35.1 g, 166 mmol) were added at 0 to 5° C. in portions over 2 minutes. A dark mixture was obtained with gas evolution. The mixture was warmed to 20° C. and stirred at 20° C. over 4 hours. A sample was taken for analysis and HPLC showed consumption of the diazonium intermediate. A solution of sodium thiosulfate pentahydrate (75 g, 302 mmol) in water (450 mL) was added and the mixture was stirred at 20° C. over 5 hours. The mixture was cooled to 0-5° C. and stirred at 0-5° C. over 30 minutes. The slurry was filtered and the solid cake was rinsed with CH3CN/H2O (1:1, 400 mL) and water (400 mL). The solid was air dried over 72 hours to give ethyl 5-iodopyrazolo[1,5-a]pyridine-3-carboxylate (I-41) as a red solid. 1H NMR (500 MHz, DMSO-d6) δ 8.64 (d, 1 H), 8.41 (d, 1 H), 8.40 (s, 1 H), 7.39 (dd, 1 H), 4.31 (q, 2 H), 1.34 (t, 3 H).

reactant | ethyl 5-aminopyrazolo[1,5-a]pyridine-3-carboxylate | 140 mmol, 28.8 g | NC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H11N3O2
reactant | BF3.Et2O | 209 mmol, 26.3 mL, 29.7 g | B(F)(F)F.CCOCC
reactant | isopentyl nitrite | 209 mmol, 28 mL, 24.5 g | N(=O)OCCC(C)C | C5H11NO2
reactant | Iodine | 11 mmol, 2.7 g | II | I2
reactant | sodium thiosulfate pentahydrate | 302 mmol, 75 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 450 mL | O | H2O
solvent | CH3CN | 450 mL | CC#N | C2H3N
product | ethyl 5-iodopyrazolo[1,5-a]pyridine-3-carboxylate | IC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9IN2O2
